US07238696B2
Preparation of 4-[4-(t-Butoxycarbonyl)piperazin-1-yl]-3-(phenylsulfonyl)-1H-indazole
A mixture of 4-[4-(t-butoxycarbonyl)piperazin-1-yl]-3-iodo-1H-indazole (0.110 g, 0.257 mmol), sodium benzene sulfinate (0.068 g, 0.411 mmol), copper(I) iodide (0.073 g, 0.386 mmol) and N,N-dimethylformamide is added to a screw-capped test-tube with Teflon-lined septum. The tube is evacuated and backfilled with argon. This procedure is repeated twice, then the tube is heated to 125° C. for 4 h. The reaction mixture is cooled, partitioned between ethyl acetate and water and filtered through a pad of diatomaceous earth. The filtrate is separated. The organic phase is washed with brine, dried over sodium sulfate and concentrated in vacuo. The resulting crude material is purified by column chromatography (silica gel, 40:60 ethyl acetate/hexanes) to afford the title compound as a pale yellow foam, 0.022 g (18% yield), identified by NMR and mass spectral analyses.

reactant | 4-[4-(t-butoxycarbonyl)piperazin-1-yl]-3-iodo-1H-indazole | 0.257 mmol, 0.110 g | C(C)(C)(C)OC(=O)N1CCN(CC1)C1=C2C(=NNC2=CC=C1)I | C16H21IN4O2
reactant | sodium benzene sulfinate | 0.411 mmol, 0.068 g | C1(=CC=CC=C1)S(=O)[O-].[Na+]
catalyst | copper(I) iodide | 0.386 mmol, 0.073 g | [Cu]I
solvent | N,N-dimethylformamide | CN(C=O)C | C3H7NO
product | 4-[4-(t-Butoxycarbonyl)piperazin-1-yl]-3-(phenylsulfonyl)-1H-indazole | 18% yield | C(C)(C)(C)OC(=O)N1CCN(CC1)C1=C2C(=NNC2=CC=C1)S(=O)(=O)C1=CC=CC=C1 | C22H26N4O4S
